US09023760B2
Step 3: Preparation of 4-{[2-(2,5-dimethyl-phenyl)-acetyl]-methyl-amino}-1-methoxy-piperidine-4-carboxylic acid methyl ester (title compound P4.46)
To a solution of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester (200 mg, 0.99 mmol) in pyridine (5 ml) was added (2,5-dimethyl-phenyl)-acetyl chloride (240 mg, 1.31 mmol) dropwise at 0° C. The reaction mixture was stirred at 0° C. for one hour and at room temperature for 6 hours, poured on ice water, acidified to pH 7 with an aqueous 2N HCl solution and diluted with ethyl acetate (50 ml). The layers were separated, the aqueous phase extracted with ethyl acetate (3×25 ml), the combined organic phases washed with water (3×15 ml) and brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate 2:1). Yield: 170 mg of 4-{[2-(2,5-dimethyl-phenyl)-acetyl]-methyl-amino}-1-methoxy-piperidine-4-carboxylic acid methyl ester (title compound P4.46) as a colorless gum.

reactant | 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester | 0.99 mmol, 200 mg | COC(=O)C1(CCN(CC1)OC)NC | C9H18N2O3
reactant | (2,5-dimethyl-phenyl)-acetyl chloride | 1.31 mmol, 240 mg | CC1=C(C=C(C=C1)C)CC(=O)Cl | C10H11ClO
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-{[2-(2,5-dimethyl-phenyl)-acetyl]-methyl-amino}-1-methoxy-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)OC)N(C)C(CC1=C(C=CC(=C1)C)C)=O | C19H28N2O4
